US05849765
Step 2: 4-(Benzothiazol-2-yl)-1-benzyl-1,2,3,6-tetrahydropyridine
4-(Benzothiazol-2-yl)pyridine (4.5 g, 0.02 mol) was suspended in DMF (10 ml) and benzyl bromide (3.8 ml, 0.03 mol) added and the reaction mixture stirred at reflux for 1 hour. On cooling, the solid was filtered and washed with ether (20 ml). The solid was then suspended in ethanol (100 ml), sodium borohydride (1.05 g, 0.026 mol) added and the reaction stirred at room temperature overnight. The reaction mixture was concentrated in vacuo, the residue diluted with water (50 ml) and the product extracted into dichloromethane (3×50 ml). The combined organic layers were washed with brine, dried (MgSO4), and concentrated. The crude product was purified by flash chromatography eluting with 15% ethyl acetate in petroleum ether to give a solid. Recrystallisation from ethyl acetate afforded the title compound as a white solid (4.1 g, 67%); (Found: C, 74.31; H, 5.87; N, 9.07. C19H18N2S requires C, 74.47; H, 5.92; N, 9.14%). δH (CDCl3), 2.76 (2H, m, NCH2 CH2), 2.83 (2H, m, NCH2CH2), 3.23 (2H, m, NCH2 CH2), 3.67 (2H, s, NCH2Ph), 6.67 (1H, m, NCH2CH), 7.35 (7H, m, ArH), 7.81 (1H, d, J 7.9Hz, ArH), 7.97 (1H, d, J 8.1Hz, ArH). m/z (ES+) 307 (M+1)+.

reactant | 4-(Benzothiazol-2-yl)pyridine | 0.02 mol, 4.5 g | S1C(=NC2=C1C=CC=C2)C2=CC=NC=C2 | C12H8N2S
reactant | benzyl bromide | 0.03 mol, 3.8 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium borohydride | 0.026 mol, 1.05 g | [BH4-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(Benzothiazol-2-yl)-1-benzyl-1,2,3,6-tetrahydropyridine | 4.1 g, 67% | S1C(=NC2=C1C=CC=C2)C=2CCN(CC2)CC2=CC=CC=C2 | C19H18N2S
